US07241789B2
a) 3-(5-Benzyloxy-indol-1-yl)-3-phenyl-acrylic acid ethyl ester
A mixture of 5-benzyloxy-1H-indole (4.46 g, 20.0 mmol), phenyl-pripionic acid ethyl ester (7.00 g, 40.0 mmol), and tetrabutylammonium fluoride [1.0 M in THF] (36.0 mL, 50.0 mmol) was stirred for 3 days. After removal of solvent, the crude reaction mixture was submitted to flash chromatography on silica gel with ethyl acetate/hexane (1:4) to give the title compound (5.42 g, 68% yield) as an E/Z isomeric mixture. Mass Spectrum (LCMS, ESI) calculated for C26H24NO3 398.2 (M+H); found 398.2.

reactant | 5-benzyloxy-1H-indole | 20.0 mmol, 4.46 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | tetrabutylammonium fluoride | 50.0 mmol, 1.0 M, 36.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(5-Benzyloxy-indol-1-yl)-3-phenyl-acrylic acid ethyl ester | 5.42 g, 68% yield | C(C)OC(C=C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C26H23NO3
